US07576215B2
3-(3-BENZYL-8-CHLOROQUINOLIN-4-YL)PHENOL
The title compound was prepared from 4-bromo-8-chloro-3-methyl-quinoline and 3-hydroxyphenyl boronic acid according to the procedure of Example 1. MS (ES) m/z 343.9.

reactant | 4-bromo-8-chloro-3-methyl-quinoline | BrC1=C(C=NC2=C(C=CC=C12)Cl)C | C10H7BrClN
reactant | 3-hydroxyphenyl boronic acid | OC=1C=C(C=CC1)B(O)O | C6H7BO3
product | 3-(3-BENZYL-8-CHLOROQUINOLIN-4-YL)PHENOL | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)Cl | C22H16ClNO
